US07094801B2
4-{3E-[5-(3H-Imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide
The title compound was prepared by condensing 5-(3H-imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-benzaldehyde (Ex-76A) with 4-acetyl-benzenesulfonamide (Ex-26A) in a similar manner as described in Ex-22. Yellow solid, 26% yield, mp>260° C. 1H-NMR (DMSO-d6) δ 8.73 (s, 1H), 8.31 (dd, J=1, 4 Hz, 1H), 8.26 (d, J=8 Hz, 2H), 8.05 (d, J=16 Hz, 1H), 7.89–7.97 (m, 3H), 7.82 (d, J=16 Hz, 1H), 7.17–7.21 (m, 1H), 6.89 (s, 1H), 4.09 (s, 3H), 4.03 (s, 3H). MS m/z=465([M+H]+, 65%), 256 (100%). HRMS (ES+) Calcd. for C23H20N4O5S: 465.1232. Found: 465.1240.

reactant | 5-(3H-imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-benzaldehyde | N1=C(NC2=NC=CC=C21)C=2C(=CC(=C(C=O)C2)OC)OC | C15H13N3O3
reactant | 4-acetyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
product | 4-{3E-[5-(3H-Imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide | 26% yield | N1=C(NC2=NC=CC=C21)C=2C(=CC(=C(C2)/C=C/C(=O)C2=CC=C(C=C2)S(=O)(=O)N)OC)OC | C23H20N4O5S
